US07838543B2
4-Cyclohexyl-N-{2-[methyl-(1-methyl-pyrrolidin-3-ylmethyl)-amino]-benzooxazol-5-yl}-benzamide; Isomer 1
Combine rac-N2-methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine (0.150 g, 0.576 mmol), 4-cyclohexyl-benzoic acid (0.177 g, 0.864 mmol), HATU (0.219 g, 0.576 mmol), polystyrene-bound diisopropylamine (1.44 g, loading: 2.0 to 3.5 mmol/g), and CH2Cl2 (20 mL). Shake the mixture overnight at room temperature. Add HATU (0.219 g, 0.576 mmol) and shake for 21 h at room temperature. Dilute with 1:1 CH2Cl2/MeOH, wash with 10M NaOH (equal volume), dry over Na2SO4, filter, and concentrate in vacuo. Subject the mixture to silica gel flash column chromatography (2×12 g columns, 5% 2M NH3 in MeOH/CH2Cl2, then ramping to 10% after 10 min) to yield the desired product as a colorless oil (0.103 g, 40%). Subject the product to chiral preparative chromatography [Chiralpak AD-H column, (8×32 cm), eluting with 70/30 3 Å ethanol/ACN w/0.2% dimethylethylamine; Flow rate=350 mL/min] to yield isomer 1 (0.039 g). mass spectrum (m/e): 447.3 (M+1). 1H NMR (400 MHz, CDCl3): δ 7.83 (s, 1H), 7.80-7.76 (m, 2H), 7.48 (d, J=2.0 Hz, 1H), 7.35 (dd, J=8.6, 1.8 Hz, 1H), 7.31-7.27 (m, 2H), 7.20 (d, J=8.4 Hz, 1H), 3.61-3.46 (m, 2H), 3.19 (s, 3H), 2.77-2.51 (m, 6H), 2.42-2.37 (m, 1H), 2.37 (s, 3H), 2.07-1.97 (m, 1H), 1.91-1.80 (m, 4H), 1.76 (d, J=12.8 Hz, 1H), 1.61-1.52 (m, 1H), 1.48-1.22 (m, 4H).

reactant | rac-N2-methyl-N2-(1-methyl-pyrrolidin-3-ylmethyl)-benzooxazole-2,5-diamine | 0.576 mmol, 0.150 g | CN(C=1OC2=C(N1)C=C(C=C2)N)CC2CN(CC2)C | C14H20N4O
reactant | 4-cyclohexyl-benzoic acid | 0.864 mmol, 0.177 g | C1(CCCCC1)C1=CC=C(C(=O)O)C=C1 | C13H16O2
reactant | HATU | 0.576 mmol, 0.219 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
reactant | HATU | 0.576 mmol, 0.219 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-Cyclohexyl-N-{2-[methyl-(1-methyl-pyrrolidin-3-ylmethyl)-amino]-benzooxazol-5-yl}-benzamide | 0.103 g, 40% | C1(CCCCC1)C1=CC=C(C(=O)NC=2C=CC3=C(N=C(O3)N(CC3CN(CC3)C)C)C2)C=C1 | C27H34N4O2
